US07514460B2
N-[2-(6,7-Dimethoxyquinazolin-4-ylamino)benzothiazol-6-yl]-4-methylbenzamide was prepared from p-toluoyl chloride (17.5 mg, 0.113 mmol) and N2-(6,7-dimethoxyquinazolin-4-yl)benzothiazole-2,6-diamine (40 mg, 0.113 mmol) according to GP 2 (yellowish solid, 44 mg, 93 μmol, 82%). LC/ESI-MS: m/z=472 [M+H]+; m/z=470 [M−H]−; R′, =3.32 min.

reactant | p-toluoyl chloride | 0.113 mmol, 17.5 mg | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
reactant | N2-(6,7-dimethoxyquinazolin-4-yl)benzothiazole-2,6-diamine | 0.113 mmol, 40 mg | COC=1C=C2C(=NC=NC2=CC1OC)NC=1SC2=C(N1)C=CC(=C2)N | C17H15N5O2S
product | N-[2-(6,7-Dimethoxyquinazolin-4-ylamino)benzothiazol-6-yl]-4-methylbenzamide | COC=1C=C2C(=NC=NC2=CC1OC)NC=1SC2=C(N1)C=CC(=C2)NC(C2=CC=C(C=C2)C)=O | C25H21N5O3S
